US08431709B2
In an argon atmosphere, a mixture of methyl benzoate (1.0 mmol), piperidin-4-ylmethanol (1.2 mmol), Zn4(OCOCF2)6O (1.25 mol % in terms of mole number) and toluene (1.7 ml) was heated to reflux for 18 hours, and as a result, piperidin-4-ylmethyl benzoate was obtained at a yield of 88%. The yield of N-benzoylpiperidin-4-ylmethyl benzoate was 12%.

reactant | methyl benzoate | 1.0 mmol | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | piperidin-4-ylmethanol | 1.2 mmol | N1CCC(CC1)CO | C6H13NO
solvent | toluene | 1.7 ml | C1(=CC=CC=C1)C | C7H8
product | piperidin-4-ylmethyl benzoate | yield of 88% | C(C1=CC=CC=C1)(=O)OCC1CCNCC1 | C13H17NO2
